US06872730B2
A solution of ethyl 2-[6-(methylamino)-2-pyridyl]acetate (2.2 g, 12.5 mmol) in THF (30 ml) was added dropwise to a suspension of lithium aluminum hydride (1.24 g, 31.2 mmol) in TEF (25 ml) under argon at 0° C. The reaction was stirred for 30 minutes and quenched carefully with water (4 ml) and 1 N NaOH (4 ml). The mixture was filtered through a pad of Celite and washed several times with ethyl acetate. The filtrate was dried with sodium sulfate, filtered, and evaporated under vacuum. The crude product was chromatographed over silica gel to yield 1.50 g (79%) of 2-[6-(Methylamino)-2-pyridyl]ethan-1-ol.

reactant | ethyl 2-[6-(methylamino)-2-pyridyl]acetate | 12.5 mmol, 2.2 g | CNC1=CC=CC(=N1)CC(=O)OCC | C10H14N2O2
reactant | lithium aluminum hydride | 31.2 mmol, 1.24 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-[6-(Methylamino)-2-pyridyl]ethan-1-ol | 1.50 g, 79% | CNC1=CC=CC(=N1)CCO | C8H12N2O
